US07915424B2
5-(3-Fluorophenylethynyl)-N-methoxy-N-methylnicotinamide
Sequentially add a 2 M solution of trimethylaluminum in toluene (0.64 g, 8.91 mmol) and 5-(3-fluorophenylethynyl)-nicotinic acid ethyl ester (0.24 g, 0.89 mmol), (prepared essentially as described in PREPARATION 17), to a solution of N,O-dimethylhydroxylamine (0.435 g, 4.46 mmol) in anhydrous toluene (4.0 mL) at 0° C. After 30 min, warm to room temperature and stir overnight. Dilute the reaction with ethyl acetate and an aqueous saturated solution of Rochelle salt (potassium sodium tartrate) and stir vigorously for 1 h. Separate the organic layer; dry (magnesium sulfate), filter and concentrate. Purify the resulting residue by silica gel chromatography, eluting with a linear gradient of 100:0 to 60:40 tetrahydrofuran:hexanes, to give the title compound as a pale yellow oil (0.084 g, 33%).

reactant | trimethylaluminum | C[Al](C)C
reactant | 5-(3-fluorophenylethynyl)-nicotinic acid ethyl ester | 0.89 mmol, 0.24 g | C(C)OC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)F)=O | C16H12FNO2
reactant | N,O-dimethylhydroxylamine | 4.46 mmol, 0.435 g | CNOC | C2H7NO
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8.91 mmol, 0.64 g | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Fluorophenylethynyl)-N-methoxy-N-methylnicotinamide | 0.084 g, 33% | FC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N(C)OC)C1 | C16H13FN2O2
